2193-10-26 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - A-Line, Triple-Lumen placed in AM
   - Cooling initiated, despite posturing, required paralysis
   Allergies:
   Gluten
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2193-10-26**] 12:21 AM
   Metronidazole - [**2193-10-26**] 12:32 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Dopamine - 12.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-10-25**] 04:51 PM
   Midazolam (Versed) - [**2193-10-25**] 08:27 PM
   Heparin Sodium (Prophylaxis) - [**2193-10-26**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-10-26**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 33.3
C (91.9
   Tcurrent: 33
C (91.4
   HR: 43 (37 - 99) bpm
   BP: 137/85(106) {111/70(0) - 143/91(112)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,362 mL
                                                                    649 mL
   PO:
             TF:
   IVF:
                                                                  1,302 mL
                                                                    529 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    395 mL
   Urine:
                                                                  1,350 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,788 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Neuromusc Block
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.45/35/131/23/1
   Ve: 6.2 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   11.4 g/dL
   165 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.3 mEq/L
   18 mg/dL
   103 mEq/L
   135 mEq/L
   32.9 %
   14.7 K/uL
        [image002.jpg]
                            [**2193-10-25**]  02:37 PM
                            [**2193-10-25**]  03:08 PM
                            [**2193-10-25**]  08:52 PM
                            [**2193-10-25**]  09:08 PM
                            [**2193-10-25**]  10:36 PM
                            [**2193-10-26**]  02:05 AM
                            [**2193-10-26**]  07:22 AM
   WBC
   20.1
   14.7
   Hct
   34.4
   33.7
   32.9
   Plt
   286
   264
   Cr
   0.6
   0.5
   0.4
   TropT
   2.17
   1.45
   1.29
   TCO2
   23
   23
   23
   25
   Glucose
   [**Telephone/Fax (3) 11513**]
   Other labs: PT / PTT / INR:12.6/27.0/1.1, CK / CKMB /
   Troponin-T:1118/197/1.29, Lactic Acid:2.2 mmol/L, Ca++:9.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:  59F with PMHx of HTN found unresponive s/p STEMI
   that was not intervened currently being cooled.
   .
   # CORONARIES: Patient presented apparently asystolic and then with Vfib
   from anterior STEMI with distal LAD lesion which could not be
   intervened. Only known risk factor was hypertension. Cardiac enzmes
   elevated on admission. Plan to monitor in CCU and manage medically. EF
   preserved.
   - CE downtrending
   - full dose asa
   - hold beta blockers while hypotensive/bradycardic from cooling
   - 40mg atorvastatin (half dose while on amio gtt)
   - monitor on tele
   - HbA1c = 6.2%
   .
   # PUMP: No known history of heart failure, only htn. Patient had EF55%
   on LV gram with apical dyskinesis and non infarct zone hyperkinesis.
   Now hypotensive which likely represents cardiogenic shock vs cooling.
   -hold ace/bb while hypotensive
   -dopamine to target MAP>60
   .
   # RHYTHM: Patient's arrest was asystole and then Vfib.  Currently in
   sinus brady on amiogtt
   -amio gtt d/ced, now on 400mg PO BID in am (x 7 days)
   -maintain K > 4 and Mg > 2
   .
   # Respiratory: Patient was intubated in the field. Should be treated
   empirically for aspiration pnemonia.
   - f/u Sputum culture
   - Cefepime/Flagyl for 8 day course
   - wean vent as tolerated after rewarming
   .
   # AG met acidosis: Present on admission with elevated lactate, likely
   from cardiogenic shock and hypoperfusion.
   - lactate downtrending this AM, continue to monitor
   .
   # Neuro: Patient was decorticate posturing on admission to CCU,
   concerning for poor prognosis even with cooling.
   - patient initiated on cooling protocol, plan is for warming @1600
   - consider head CT in am
   - neuro to follow
   - cont EEG monitoring
   .
   # Transaminitis: Likely elevated in setting of arrest/hypoperfusion.
   Also started on amio which is unlikely to cause transaminitis so
   acutely.
   -trend LFTS
   .
   # Anemia: No history of anemia. No signs of bleeding.
   -guaic stools
   -tend hct, xfuse hct<28 since active ischemia
   -f/u iron studies
   .
   # HTN: on atenolol as outpatient for management of htn, hold for now
   .
   FEN: follow and replete elytes prn
   .
   ACCESS: RIJ and PIV
   .
   PROPHYLAXIS:
   -DVT ppx with subq hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -PPI for stress ulcer
   .
   CODE: full
   .
   COMM: husband [**Telephone/Fax (1) 11490**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-10-25**] 08:49 AM
   20 Gauge - [**2193-10-25**] 08:49 AM
   Multi Lumen - [**2193-10-25**] 10:00 AM
   Arterial Line - [**2193-10-25**] 04:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2193-10-27 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - warmed @1600 without complications
   - CXR: unchanged R apical PTX
   - CT head: no acute abnormalities
   - pressures remained low, gave 2L NS, pressures improved, continued
   pressors
   - failed PS trial [**1-14**] apneic episodes, but was on sedation during trial
   - without sedation becomes agitated and tries to sit up in bed, but
   noninteractive
   - gave 2L NS to correct fluid deficit since admission
   Allergies:
   Gluten
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2193-10-26**] 08:22 AM
   Cefipime - [**2193-10-27**] 12:41 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 7.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-10-27**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-10-27**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 60 (41 - 76) bpm
   BP: 97/60(76) {88/48(65) - 147/89(112)} mmHg
   RR: 17 (8 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 10 (6 - 10)mmHg
   Total In:
                                                                  2,889 mL
                                                                    546 mL
   PO:
   TF:
                                                                     55 mL
                                                                    199 mL
   IVF:
                                                                  2,654 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    790 mL
   Urine:
                                                                    965 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,924 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 533 (533 - 650) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.40/39/86/23/0
   Ve: 6 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Gen: NAD, WNWD, follows command, track cross midline
   HEENT: PERRL, R neck hematoma is stable.
   CVS: nl s1s2, rrr, nl s1s2
   Pulm: CTAB, no w/r/c.
   ABD: NTND, + BS, soft
   EXT: no c/c/e
   Labs / Radiology
   202 K/uL
   8.5 g/dL
   130 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.4 mEq/L
   14 mg/dL
   104 mEq/L
   134 mEq/L
   24.6 %
   14.2 K/uL
        [image002.jpg]
                            [**2193-10-25**]  03:08 PM
                            [**2193-10-25**]  08:52 PM
                            [**2193-10-25**]  09:08 PM
                            [**2193-10-25**]  10:36 PM
                            [**2193-10-26**]  02:05 AM
                            [**2193-10-26**]  07:05 AM
                            [**2193-10-26**]  07:22 AM
                            [**2193-10-26**]  11:30 AM
                            [**2193-10-26**]  11:55 AM
                            [**2193-10-27**]  05:19 AM
   WBC
   14.7
   14.2
   Hct
   33.7
   32.9
   24.6
   Plt
   264
   202
   Cr
   0.5
   0.4
   0.4
   0.4
   TropT
   1.45
   1.29
   1.01
   TCO2
   23
   23
   23
   25
   25
   Glucose
   200
   165
   153
   142
   130
   Other labs: PT / PTT / INR:12.6/27.0/1.1, CK / CKMB /
   Troponin-T:924/165/1.01, ALT / AST:108/91, Lactic Acid:2.2 mmol/L,
   Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   CXR:  Small right apical pneumothorax is again unchanged. The central
   venous catheter, ET tube, feeding tube are unchanged. There is mild
   improvement of the pulmonary interstitial markings. The cardiac
   silhouette and mediastinum are within normal limits.
   CT-Head: No acute intracranial process and preservation of grey/white
   matter differentiation.
   Assessment and Plan
   59F with PMHx of HTN found unresponive s/p STEMI that was not
   intervened currently being cooled.
   .
   # CORONARIES: Patient presented apparently asystolic and then with Vfib
   from anterior STEMI with distal LAD lesion which could not be
   intervened. Only known risk factor was hypertension. Cardiac enzymes
   elevated on admission. Plan to monitor in CCU and manage medically. EF
   preserved.
   - CE downtrending
   - full dose asa
   - hold beta blockers while hypotensive/bradycardic, requiring
   pressures.
   - 40mg atorvastatin (half dose while on amio gtt)
   - monitor on tele
   - HbA1c = 6.2%
   .
   # PUMP: No known history of heart failure, only htn. Patient had EF55%
   on LV gram with apical dyskinesis and non infarct zone hyperkinesis.
   Now hypotensive which likely represents cardiogenic shock vs cooling.
   -hold ace/bb while hypotensive
   -dopamine to target MAP>60
   -given fluids, echo in AM of [**10-28**].
   .
   # RHYTHM: Patient's arrest was asystole and then Vfib.  Currently in
   sinus brady on amiogtt
   -amio gtt d/ced, now on 400mg PO BID in am (x 7 days)
   -maintain K > 4 and Mg > 2
   .
   # Respiratory: Patient was intubated in the field. CXR showed no
   evidence of PNA.
   - f/u Sputum culture
   - as CXR was clear, d/c Cefepime/Flagyl
   - wean sedation and vent as tolerated after rewarming, extubate if
   tolerated
   .
   # AG met acidosis: Present on admission with elevated lactate, likely
   from cardiogenic shock and hypoperfusion.
   - lactate downtrending this AM, continue to monitor
   .
   # Neuro: Patient now with improved neurologic function, responding to
   basic commands.   CT scan shows no acute abnormalities.
   - patient now warmed
   - f/u EEG, neuro recs
   .
   # Transaminitis: Likely elevated in setting of arrest/hypoperfusion.
   Also started on amio which is unlikely to cause transaminitis so
   acutely.
   - trend LFTS
   .
   # Anemia: Acute Hct drop this AM; could be dilutional in setting of
   recent IVF.
   - no clear source of bleeding; continue to trend Hct
   - transfuse Hct < 21 in setting of no active ischemia
   - f/u iron studies
   .
   # HTN: on atenolol as outpatient for management of htn, hold for now
   .
   FEN: follow and replete elytes prn
   .
   ACCESS: RIJ and PIV
   .
   PROPHYLAXIS:
   -DVT ppx with subq hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -PPI for stress ulcer
   .
   CODE: full
   .
   COMM: husband [**Telephone/Fax (1) 11490**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-10-27**] 07:15 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-10-25**] 10:00 AM
   Arterial Line - [**2193-10-25**] 04:40 PM
   18 Gauge - [**2193-10-26**] 08:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2193-10-28 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - extubated, improved mental status.
   - neuro thought EEG showed spikes that was suggestive of mini-seizure,
   Keppra loaded and on 750 [**Hospital1 7**] maintanence.
   - given NS for fluid maintenance and 500 cc bolus
   - MRI of brain - done waiting for final read - patient moved during
   study, incomplete study (required 1.5mg IV ativan).
   - transfused one unit.
   Allergies:
   Gluten
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2193-10-26**] 08:22 AM
   Cefipime - [**2193-10-27**] 12:41 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-10-28**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-10-28**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 67 (61 - 77) bpm
   BP: 114/67(78) {80/40(53) - 119/67(78)} mmHg
   RR: 16 (12 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 13 (12 - 16)mmHg
   Total In:
                                                                  2,705 mL
                                                                    475 mL
   PO:
   TF:
                                                                    237 mL
   IVF:
                                                                  2,347 mL
                                                                    283 mL
   Blood products:
                                                                    192 mL
   Total out:
                                                                  1,800 mL
                                                                  1,165 mL
   Urine:
                                                                  1,800 mL
                                                                  1,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    905 mL
                                                                   -690 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 514 (514 - 514) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.46/34/175/28/1
   Ve: 6.5 L/min
   PaO2 / FiO2: 438
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   7.7 g/dL
   103 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.1 mEq/L
   11 mg/dL
   106 mEq/L
   138 mEq/L
   23.0 %
   11.3 K/uL
        [image002.jpg]
                            [**2193-10-26**]  02:05 AM
                            [**2193-10-26**]  07:05 AM
                            [**2193-10-26**]  07:22 AM
                            [**2193-10-26**]  11:30 AM
                            [**2193-10-26**]  11:55 AM
                            [**2193-10-27**]  05:19 AM
                            [**2193-10-27**]  07:21 AM
                            [**2193-10-27**]  07:58 AM
                            [**2193-10-27**]  10:18 PM
                            [**2193-10-28**]  03:04 AM
   WBC
   14.7
   14.2
   11.3
   Hct
   32.9
   24.6
   24.9
   23.0
   Plt
   [**Telephone/Fax (3) 11547**]
   Cr
   0.4
   0.4
   0.4
   0.4
   TropT
   1.29
   1.01
   0.89
   TCO2
   25
   25
   25
   Glucose
   165
   153
   142
   130
   103
   Other labs: PT / PTT / INR:12.9/56.7/1.1, CK / CKMB /
   Troponin-T:370/16/0.89, ALT / AST:108/91, Alk Phos / T Bili:/0.2,
   Lactic Acid:2.2 mmol/L, LDH:403 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.2 mg/dL
   Assessment and Plan
   59F with PMHx of HTN found unresponive s/p STEMI that was not
   intervened currently being cooled.
   .
   # CORONARIES: Patient presented apparently asystolic and then with Vfib
   from anterior STEMI with distal LAD lesion which could not be
   intervened. Only known risk factor was hypertension. Cardiac enzymes
   elevated on admission. Plan to monitor in CCU and manage medically. EF
   preserved.
   - CE downtrending
   - full dose asa
   - hold beta blockers while hypotensive/bradycardic, requiring
   pressures.
   - 40mg atorvastatin (half dose while on amio gtt)
   - monitor on tele
   - HbA1c = 6.2%
   .
   # PUMP: No known history of heart failure, only htn. Patient had EF55%
   on LV gram with apical dyskinesis and non infarct zone hyperkinesis.
   Now hypotensive which likely represents cardiogenic shock vs cooling.
   -hold ace/bb while hypotensive
   -dopamine to target MAP>60
   -given fluids, echo in AM of [**10-28**].
   -repeat echo, f/u with EP on ICD/amio
   .
   # RHYTHM: Patient's arrest was asystole and then Vfib.  Currently in
   sinus brady on amiogtt
   -amio gtt d/ced, now on 400mg PO BID in am (x 7 days)
   -maintain K > 4 and Mg > 2
   .
   # Respiratory: Patient was intubated in the field. CXR showed no
   evidence of PNA.
   - f/u Sputum culture
   - as CXR was clear, d/c Cefepime/Flagyl
   - wean sedation and vent as tolerated after rewarming, extubate if
   tolerated
   .
   # AG met acidosis: Present on admission with elevated lactate, likely
   from cardiogenic shock and hypoperfusion.
   - resolved, continue to monitor
   .
   # Neuro: Patient now with improved neurologic function, responding to
   basic commands.   CT scan shows no acute abnormalities.
   - patient now warmed
   - f/u EEG, neuro recs
   .
   # Transaminitis: Likely elevated in setting of arrest/hypoperfusion.
   Also started on amio which is unlikely to cause transaminitis so
   acutely.
   - trend LFTS
   .
   # Anemia: Acute Hct drop this AM; could be dilutional in setting of
   recent IVF.
   - no clear source of bleeding; continue to trend Hct
   - transfuse Hct < 21 in setting of no active ischemia
   - Iron studies
 Ferritin -604 TIBC- Low B-12- WNL  LDH
elevated,
   Haptoglobin
 wnl
   - guaiac stools
   - consider post-cath bleed issues.
   .
   # HTN: on atenolol as outpatient for management of htn, hold for now
   .
   FEN: follow and replete elytes prn
   .
   ACCESS: RIJ and PIV
   .
   PROPHYLAXIS:
   -DVT ppx with subq hep
   -Pain management with fentanyl
   -Bowel regimen with senna/colace
   -VAP bundle
   -PPI for stress ulcer
   .
   CODE: full
   .
   COMM: husband [**Telephone/Fax (1) 11490**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-10-25**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: